US04831032
2-(4-Pyridyl)-1,5-dihydrobenzo[1,2-d:4,5-d']diimidazole
14.8 g. (100 mMole) 5,6-diaminobenzimidazole, 10.7 g. (100 mMole) pyridine-4-aldehyde and 5 ml. concentrated hydrochloric acid are heated to the boil under reflux. After the solution has been clarified with active charcoal, it is evaporated and the residue is digested with a little water. After suction filtration and drying, there are obtained 6.98 g. (29% of theory) of the desired product in the form of colourless crystals of the hydrochloride; m.p.>280° C.

reactant | 5,6-diaminobenzimidazole | 100 mMole | NC1=CC2=C(N=CN2)C=C1N | C7H8N4
reactant | pyridine-4-aldehyde | 100 mMole | N1=CC=C(C=C1)C=O | C6H5NO
reactant | hydrochloric acid | Cl | ClH
reactant | charcoal | C | CH4
product | 2-(4-Pyridyl)-1,5-dihydrobenzo[1,2-d:4,5-d']diimidazole | N1=CC=C(C=C1)C=1NC2=C(N1)C=C1C(N=CN1)=C2 | C13H9N5
